US08106064B2
3-[3-(5-Ethyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile (109):
A mixture of 3-[3-(5-ethyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile (2.3 g, 6.82 mmol) and oxalyl chloride (10 ml) in anhydrous THF (30 ml) was refluxed for 4 hr. After cooling to room temperature, the mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:1)) to afford 460 mg (22%) of a white solid. m.p. 305-306° C.; 1H NMR (200 MHz, DMSO-d6) δ 0.83 (3H, t, J=7.4 Hz), 1.94 (2H, q, J=7.4 Hz), 2.42 (3H, s), 6.65 (1H, d, J=16.8 Hz), 7.72 (1H, d, J=16.8 Hz), 7.80 (1H, s), 7.87 (1H, s), 8.01 (1H, s), 11.08 (1H, s), 11.29 (1H, s); m/z (LC/Mass, EI) 310 (M+H+).

reactant | 3-[3-(5-ethyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile | 6.82 mmol, 2.3 g | C(C)C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C=C(C1)C)C=CC#N | C19H19N3O3
reactant | oxalyl chloride | 10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-[3-(5-Ethyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile | 460 mg, 22% | C(C)C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C=C(C1)C)C=CC#N | C17H15N3O3
